US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (225 mg, 0.67 mmol), (prepared as described for the starting material in Example 1), potassium carbonate (106 mg, 0.77 mmol) and 1-naphthol (111 mg, 0.77 mmol) in DMF (7.5 ml) was stirred at 100° C. for 5 hours then allowed to cool to ambient temperature. The reaction mixture was treated with 1M aqueous sodium hydroxide solution (40 ml) and stirred at ambient temperature for a few minutes. The reaction mixture was extracted with ethyl acetate and the organic extracts were washed with water. The organic extracts were dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give a solid which was triturated with ether, filtered and dried to give 6-methoxy-7-(3-morpholinopropoxy)-4-(1-naphthyloxy)quinazoline (194 mg, 65%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.67 mmol, 225 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | potassium carbonate | 0.77 mmol, 106 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-naphthol | 0.77 mmol, 111 mg | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | sodium hydroxide | 1M, 40 ml | [OH-].[Na+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(3-morpholinopropoxy)-4-(1-naphthyloxy)quinazoline | 194 mg, 65% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)OC1=CC=CC2=CC=CC=C12 | C26H27N3O4
